Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Haldol
 
Attending: ___.
 
Chief Complaint:
CC:  ___ 
REASON FOR MICU:  Intubated

 
Major Surgical or Invasive Procedure:
Intubation
RIJ CVL placement
Extubation
 
History of Present Illness:
___ with bipolar disorder, PTSD, alcohol abuse, recent admission 
to Plastic Surgery service for left distal radius fracture 
repair complicated by post-operative pain and high narcotics 
requirement, returns same day after discharge with confusion, 
hypoxia, somnolence, s/p intubation.

He had a prior injury in ___ where he sustained a left 
distal radius fracture but was lost to follow up. He returned 
due to ongoing pain in left wrist with paresthesias. On ___, he 
underwent radial osteotomy, bone allograft and ORIF and release 
of Guyons canal. POD2-3, he became agitated, reported 
hallucinations, and was hypoxic. This cleared by the morning of 
POD3 without intervention. He then became agitated again but 
would answer questions appropriately when distracted. Pain was 
managed with dilaudid PCA. APS was consulted and he was 
transitioned to oral medications. He was discharged back to 
___ House.

The afternoon he was discharged, he became suddenly agitated and 
confused. Then he desatted to 80's with increased confusion. 
T99.1 20 113 135/83 85-88% RA. Put on 4L NC 93-96%. He was 
referred to ED. In the ED, initial vitals:  99.7 103 121/81 28 
93% NC. 
Labs notable for: WBC 9.1, Hct 31.8, normal coags and 
chemistries
He was given:
___ 18:52 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 18:52 IH Ipratropium Bromide Neb 1 NEB 
___ 20:52 PO OxycoDONE 10 mg  
___ 21:16 PO OxycoDONE 5 mg 
___ 21:16 IV Lorazepam 1 mg 
___ 22:13 IM Lorazepam 2 mg 
___ 22:13 IM Haloperidol 5 mg 
___ 23:20 IV Haloperidol 5 mg 
___ 23:20 IV Lorazepam 2 mg Partial Administration  
___ 23:24 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 23:24 IH Ipratropium Bromide Neb 1 NEB 
___ 23:25 IV Lorazepam 2 mg Partial Administration  
___ 00:31 IV Succinylcholine 150 mg Partial 
Administration  
___ 00:46 IV Succinylcholine 150 mg Partial 
Administration  
___ 00:46 IV Etomidate 30 mg Partial Administration  
___ 01:05 IV Etomidate 14 mg Partial Administration  
___ 01:05 IV Succinylcholine 80 mg 
___ 01:10 IV DRIP Midazolam  Started 6 mg/hr 
___ 01:10 IV DRIP Fentanyl Citrate  Started 200 mcg/hr 
___ 02:08 IV Etomidate 30 mg Partial Administration  

ED exam was notable for diffuse end-expiratory wheezing. He was 
agitated and complaining of very dry mouth. His pupils were 
equal and reactive. He was given several rounds of Haldol and 
Ativan for agitation. He was intubated to facilitate CTA chest. 
He underwent NINE attempts at intubation before success with 
glidescope by Anesthesia at the bedside. He was taken for CTA 
chest and then transferred to MICU. Transfer vitals were 87 
95/59 22 100% Intubated. 

On arrival to MICU, he is intubated and sedated.

ROS per HPI, unable to obtain due to intubation.

 
Past Medical History:
-Hypertension
-ETOH Abuse
-Hereditary Neuropathy Type I
-PTSD
-Bipolar disorder
-Shoulder repair
-Knee total reconstruction
-Bells Palsy
-Distal radius fracture repair ___
 
Social History:
___
Family History:
Older brother - testicular cancer
___ hereditary neuropathy type 1
 
Physical Exam:
ADMISSION
VS:  T99.1 74 121/82 100% CMV 500x20 8*1.0 123.6kg
GEN:  Obese man in no distress, intubated, sedated
HEENT:  No scleral icterus, anisocoria, R > L, reactive, round
HEART:  RRR, normal S1 S2, no murmurs
LUNGS:  Clear anterolaterally
ABD:  Soft, NT ND, normal BS
EXT:  No edema
NEURO:  Withdraws extremities to pain
SKIN:  Several blanching mildly erythematous papules throughout 
skin
MSK:  LUE in sling

DISCHARGE
VS - 97.9 93 132/83 18 97% ra
GEN: Obese man in no distress, pressured speech  
HEENT: No scleral icterus, anisocoria, R (6mm) > L (4mm), 
reactive, round. MMM, erythematous papules on forehead.  
HEART: tachycardic, regular rhythm, normal S1 S2, no g/r/m  
LUNGS: Clear anterolaterally, slight exp wheeze  
ABD: Soft, NT ND, normal BS  
EXT: No edema. Cool feet but warm extreme otherwise. No c/c  
NEURO: AAOx3, moves all extrem spont.  
SKIN: Several blanching mildly erythematous papules throughout 
skin  
MSK: Left arm wrapped  
Psych: pressured speech  
 
Pertinent Results:
ADMISSION LABS
========================
___ 06:45PM BLOOD WBC-9.1 RBC-3.43* Hgb-9.6* Hct-31.8* 
MCV-93# MCH-28.0 MCHC-30.2* RDW-17.0* RDWSD-57.1* Plt ___
___ 06:45PM BLOOD Neuts-61.3 ___ Monos-11.9 Eos-3.6 
Baso-0.8 Im ___ AbsNeut-5.60 AbsLymp-2.02 AbsMono-1.09* 
AbsEos-0.33 AbsBaso-0.07
___ 06:45PM BLOOD ___ PTT-29.8 ___
___ 06:45PM BLOOD Glucose-148* UreaN-9 Creat-0.7 Na-139 
K-4.7 Cl-98 HCO3-29 AnGap-17
___ 06:45PM BLOOD ALT-16 AST-31 AlkPhos-64 TotBili-0.2
___ 06:45PM BLOOD Albumin-3.9 Calcium-9.7 Phos-3.1 Mg-1.6
___ 03:57PM BLOOD TSH-6.7*
___ 04:22AM BLOOD T4-4.2*
___ 10:21AM BLOOD Ammonia-31
___ 03:57PM BLOOD VitB12-761
___ 03:10PM BLOOD Vanco-8.3*
___ 06:45PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 03:31AM BLOOD Type-ART Temp-37.3 pO2-262* pCO2-41 
pH-7.48* calTCO2-31* Base XS-7 Intubat-INTUBATED
___ 03:31AM BLOOD Glucose-124* Lactate-1.3 Na-136 K-3.9 
Cl-99 calHCO3-29
___ 03:31AM BLOOD freeCa-1.10*

MICRO:
========================
___ URINE CULTURE: negative
___ SPUTUM CULTURE: commensal respiratory flora
___ BLOOD CULTURE: negative
___ C DIF: negative

IMAGING/STUDIES:
========================
___ CTA CHEST:
1. Low lung volumes, perihilar and bilateral lower lobe 
consolidations, and bronchial wall thickening is concerning for 
aspiration, given the presence of endobronchial secretions. 
2. No evidence of pulmonary embolism or acute aortic pathology. 
3. Borderline hilar and mediastinal lymph nodes are likely 
reactive. 

___ CT HEAD:
1. No evidence for acute intracranial abnormalities. 
2. Mucosal thickening and fluid in the paranasal sinuses are 
most likely 
secondary to endotracheal intubation, but please correlate 
clinically whether there are signs of sinusitis. 

___ MR HEAD:
1. No acute intracranial abnormality. 
2. Mild paranasal sinus disease. 

___ CXR:
Interval removal of ET tube and NG tube. 
Considerable interval improvement in previously seen 
retrocardiac opacity, 
though residual patchy opacity remains present. 
New small right cardiomediastinal patchy opacity -?  
Atelectasis, although 
attention to this area on followup films is requested to exclude 
a focus of aspiration pneumonitis or an infectious pneumonic 
infiltrate. 

DISCHARGE LABS:
========================
___ 08:35AM BLOOD WBC-11.0* RBC-3.61* Hgb-10.2* Hct-33.3* 
MCV-92 MCH-28.3 MCHC-30.6* RDW-16.5* RDWSD-56.3* Plt ___
___ 08:35AM BLOOD Plt ___
___ 08:35AM BLOOD Glucose-152* UreaN-6 Creat-0.7 Na-141 
K-3.7 Cl-100 HCO3-30 AnGap-___RIEF SUMMARY STATEMENT:
===========================
___ man with a history of bipolar disorder, PTSD, ETOH abuse, 
and recent admission to Plastic Surgery Service for L distal 
radius fracture, who was sent in from ___ for 
somnolence. Of note, he had been given multiple sedating 
medications on the day of discharge from Plastics. When he 
arrived in the ED he became agitated and received several 
sedating medications requiring intubation for airway protection 
and was treated in the ICU for aspiration pneumonia. Extubation 
was delayed due to ongoing altered mental status, but patient 
was eventually extubated and transferred to the floor. His O2 
sats remained stable on room air, and he completed a course of 
Augmentin for PNA. He was evaluated by Psychiatry, who felt his 
agitation was secondary to a manic episode from his biopolar 
with some superimposed agitated delirium secondary to the 
multiple sedating medications he had received, and his medicines 
were adjusted. Of note, he was tachycardic throughout 
hospitalization, which was attributed to Seroquel.

ACTIVE ISSUES:
===========================
# TOXIC METABOLIC ENCEPHALOPATHY:
Patient sent in from ___ with sedation, but was 
confused and agitated on arrival to the ED, and immediately 
required sedation. It was unclear what caused this presentation, 
but on review of the record, he had received multiple sedating 
medications on the day of discharge from plastic surgery, most 
likely in the context of him developing a manic episode. On 
admission, CT head showed no acute process. After being 
intubated & sedated, patient remained confused. This was likely 
multifactorial etiology. He was evaluated by Neurology, and had 
a negative EEG. He was evaluated by Psychiatry, who felt he was 
suffering from a manic episode from his bipolar, that may have 
been worsened by high-dose steroids. He was stabilized on a 
regimen of QUEtiapine Fumarate 100 mg TID and Divalproex 
(DELayed Release) 500 mg PO BID. He also completed the 
phenobarbital protocol for alcohol withdrawal, as this was 
thought to possibly be the precipitant, however patient denied 
etoh use. He received high dose-thiamine, MVI & folic acid as 
well. At time of discharge, he was mentating well.

# PNEUMONIA: 
Patient spiked a fever in the ICU, which was initially 
attributed to patient's Precedex. CXR showed consolidation, so 
pneumonia was thought to be the course. He completed an 8-day 
course with Vanc/Cefepime that was de-escalated to 
Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H thru ___.

# ACUTE RESPIRATORY FAILURE WITH HYPOXEMIA: 
Patient initially presented with somnolence, agitation, and 
hypoxemia. Hypoxemia was likely due to aspiration pneumonitis v 
chemical pneumonitis v pneumonia. He was intubated for airway 
protection. CTA negative for PE. He received steroid therapy for 
airway edema, but became stable on room air. Pneumonia was 
treated, as above.

# POLYSUBSTANCE ABUSE: History of alcohol abuse but denies any 
recently. Unclear ingestions. Completed the phenobarbital 
protocol for alcohol withdrawal. Social work was consulted, and 
patient was continued on thiamine, folate & a multivitamin. 

# TACHYCARDIA: Patient was tachycardic to 130s on ___, which 
was thought to be due to Quetiapine. His dose was decreased, and 
tachycardia improved to the ___. He remained asymptomatic with 
no chest pain, palpitations, or shortness of breath. 

# LEFT DISTAL RADIUS FRACTURE: s/p ORIF and release on ___. 
Plastics following as inpatient, re-inforced at bedside. He 
received Tylenol for pain. 

CHRONIC STABLE ISSUES:
===========================
# Gout: Cont allopurinol.  

# Hypertension: Patient's Lisinopril was stopped because it was 
not needed. Home 
Verapamil SR 120 mg PO Q24H was continued.

TRANSITIONAL ISSUES:
===========================
# TACHYCARDIA: Patient was tachycardic to ___ consistently 
throughout admission. He was asymptomatic, without dyspnea or 
hypoxemia. He was not dehydrated. Possibly secondary to 
Seroquel.
# LEFT RADIAL FRACTURE: Patient was discharged with a cast over 
left arm. Per discharge instructions:  Left wrist should be 
maintained in the splint and not removed. Left wrist should be 
elevated to alleviate swelling and pain. Patient should continue 
to do ROM to digits to prevent stiffness. He has scheduled 
follow-up with ortho on ___
# PSYCH MEDICINES: QUEtiapine Fumarate 100 mg TID. Divalproex 
(DELayed Release) 500 mg PO qAM and 1g QHS
# LISINOPRIL: Lisinopril 40mg daily was stopped because patient 
was not hypertensive without it in the hospital
# CODE: full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Allopurinol ___ mg PO DAILY 
3. Divalproex (DELayed Release) 500 mg PO BID 
4. Gabapentin 1200 mg PO QID 
5. Lisinopril 40 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Prazosin ___ mg PO QHS:PRN nightmares 
8. QUEtiapine Fumarate 50 mg PO DAILY 
9. QUEtiapine Fumarate 100 mg PO QHS 
10. TraMADol 50 mg PO Q4H:PRN Pain 
11. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
12. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN pain 
13. Acetaminophen 1000 mg PO Q6H 
14. QUEtiapine Fumarate 50 mg PO NOON 
15. Multivitamins 1 TAB PO DAILY 
16. FoLIC Acid 1 mg PO DAILY 
17. Thiamine 100 mg PO DAILY 
18. Verapamil SR 120 mg PO Q24H 
19. QUEtiapine Fumarate 25 mg PO BID:PRN agitation 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Allopurinol ___ mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Gabapentin 1200 mg PO QID 
5. Multivitamins 1 TAB PO DAILY 
6. QUEtiapine Fumarate 50 mg PO BID:PRN anxiety, agitation, 
insomnia 
7. QUEtiapine Fumarate 100 mg PO TID 
8. QUEtiapine Fumarate 100 mg PO QHS:PRN agitation 
9. Thiamine 100 mg PO DAILY 
10. TraMADol 50 mg PO Q4H:PRN Pain 
11. Verapamil SR 120 mg PO Q24H 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
13. Prazosin ___ mg PO QHS:PRN nightmares 
14. Divalproex (DELayed Release) 500 mg PO QAM 
15. Divalproex (DELayed Release) 1000 mg PO QPM 
16. Omeprazole 20 mg PO DAILY 
17. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- Agitation
- Confusion 
- Respiratory distress

SECONDARY DIAGNOSES
- Tachycardia
- Left radial fracture
- 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for agitation and confusion. While 
you were here, you had difficulty breathing, so you had to be 
intubated and treated in the intensive care unit. Your breathing 
improved, and you were also treated for a pneumonia. You were 
seen by the Psychiatry team, and your medicines were adjusted. 

When you go home, it will be very important that you take all of 
your medicines as prescribed. Please go to all of your follow up 
appointments.

We wish you all the best in the future.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___